US08487108B2
A solution of (S)-tert-butyl 2-amino-3-cyclohexylpropyl(methyl)carbamate (34.7 mg, 0.129 mmol) in CH2Cl2 (2 mL) was cooled in an ice-bath and CDI (25 mg, 1.2 mmol) and DIEA (83.2 mg, 0.11 mL, 0.645 mmol) were added. The mixture was stirred at rt for 0.5 h and 2-((3-chlorophenyl)((R)-piperidin-3-yl)methoxy)-N-ethylacetamide (40 mg, 0.129 mmol) was added. The reaction mixture was stirred overnight, washed with brine, dried over Na2SO4 and concentrated to give crude tert-butyl (2S)-2-((3R)-3-((3-chlorophenyl)(2-(ethylamino)-2-oxoethoxy)methyl)piperidine-1-carboxamido)-3-cyclohexylpropyl(methyl)carbamate (60 mg, yield: 75.6%). MS (E/Z): 607 (M+H+).

reactant | (S)-tert-butyl 2-amino-3-cyclohexylpropyl(methyl)carbamate | 0.129 mmol, 34.7 mg | N[C@H](CN(C(OC(C)(C)C)=O)C)CC1CCCCC1 | C15H30N2O2
reactant | CDI | 1.2 mmol, 25 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DIEA | 0.645 mmol, 0.11 mL, 83.2 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-((3-chlorophenyl)((R)-piperidin-3-yl)methoxy)-N-ethylacetamide | 0.129 mmol, 40 mg | ClC=1C=C(C=CC1)C(OCC(=O)NCC)[C@H]1CNCCC1 | C16H23ClN2O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (2S)-2-((3R)-3-((3-chlorophenyl)(2-(ethylamino)-2-oxoethoxy)methyl)piperidine-1-carboxamido)-3-cyclohexylpropyl(methyl)carbamate | 60 mg, yield: 75.6% | ClC=1C=C(C=CC1)C([C@H]1CN(CCC1)C(=O)N[C@H](CN(C(OC(C)(C)C)=O)C)CC1CCCCC1)OCC(=O)NCC | C32H51ClN4O5
